US08003785B2
A mixture of 0.070 g (0.16 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid (I-22), 0.030 g (0.19 mmole) of (1R,2S)-2-amino-cyclopentanecarboxylic acid amide, 0.071 g (0.19 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate, 0.136 mL (0.78 mmole) of diisopropylethyl amine and 2.0 mL of dimethylformamide was stirred for 18 hours. The mixture was diluted with 10 mL of water plus 2 mL of saturated aqueous sodium bicarbonate and then extracted 3 times with 10 mL of ethyl acetate. The combined extracts were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with hexanes-ethyl acetate (gradient, 80:20-0:100) to give 0.022 g of N-[(1S,2R)-(2-carbamoyl-cyclopentyl)]-4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzamide (I-44) as a white solid.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid | 0.16 mmole, 0.070 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | (1R,2S)-2-amino-cyclopentanecarboxylic acid amide | 0.19 mmole, 0.030 g | N[C@@H]1[C@@H](CCC1)C(=O)N | C6H12N2O
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.19 mmole, 0.071 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | diisopropylethyl amine | 0.78 mmole, 0.136 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | water | 10 mL | O | H2O
solvent | sodium bicarbonate | 2 mL | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | N-[(1S,2R)-(2-carbamoyl-cyclopentyl)]-4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzamide | 0.022 g | C(N)(=O)[C@H]1[C@H](CCC1)NC(C1=CC(=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1)OC)=O | C27H33F2N7O4
